### PR TITLE
[Merged by Bors] - feat: Metric Spaces are T6

### PR DESCRIPTION
**Pull request by plp127**
This PR shows that metric spaces are T6. It also generalizes the contents of Mathlib/Topology/GDelta/UniformSpace to apply to metrizable spaces.

See this [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60IsClosed.2EisG.CE.B4.60) thread.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by plp127** [comment]
!bench

File: Mathlib/Topology/GDelta/MetrizableSpace.lean [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+    · apply (isOpen_Ioi.preimage hg).mem_nhdsSet.mpr
+      intro x hx
+      rw [mem_preimage, infDist_zero_of_mem hx, sub_zero,
+        mem_Ioi, ← ht.not_mem_iff_infDist_pos hte]
+      exact hst.not_mem_of_mem_left hx
+    · apply (isOpen_Iio.preimage hg).mem_nhdsSet.mpr
+      intro x hx
+      rw [mem_preimage, infDist_zero_of_mem hx, zero_sub,
+        mem_Iio, neg_neg_iff_pos, ← hs.not_mem_iff_infDist_pos hse]
+      exact hst.not_mem_of_mem_right hx
```
Comment (j-loreaux) [inline Mathlib/Topology/GDelta/MetrizableSpace.lean:48]: A few notes:

1. the `sorry` can be filled by the suggested `simp` lemma, once you add that.
2. For the `fun_prop` to work, you need to mark `continuous_infDist_pt` with that attribute.
3. there's no reason to inline the instance here, this is just a proof, so we use `let _` instead of `letI`.
4. it's easier to use the definition of `separatedNhds` directly here, instead of going through the `nhdsSet` filter, because you're constructing open sets.

```suggestion
    let _ := pseudoMetrizableSpacePseudoMetric
    by_cases hee : s = ∅ ∨ t = ∅
    · obtain rfl | rfl := hee <;> simp
    simp only [not_or, ← ne_eq, ← nonempty_iff_ne_empty] at hee
    obtain ⟨hse, hte⟩ := hee
    let g (p : X) := infDist p t - infDist p s
    have hg : Continuous g := by fun_prop
    refine ⟨g ⁻¹' (Ioi 0), g ⁻¹' (Iio 0), isOpen_Ioi.preimage hg, isOpen_Iio.preimage hg,
      fun x hx ↦ ?_, fun x hx ↦ ?_, Disjoint.preimage _ (by sorry)⟩
    · simp [g, infDist_zero_of_mem hx,
        (ht.not_mem_iff_infDist_pos hte).mp (hst.not_mem_of_mem_left hx)]
    · simp [g, infDist_zero_of_mem hx,
        (hs.not_mem_iff_infDist_pos hse).mp (hst.not_mem_of_mem_right hx)]
```

File: Mathlib/Topology/GDelta/MetrizableSpace.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+        · intro x hx
+          rw [← hs.closure_eq, mem_closure_iff_infDist_zero he]
+          apply infDist_nonneg.eq_or_gt.resolve_right
+          intro hpos
+          rw [sInter_range, mem_iInter] at hx
+          specialize hx ⌊(infDist x s)⁻¹⌋₊
+          rw [mem_setOf, lt_inv_comm₀ hpos (by positivity)] at hx
+          have hcf := Nat.ceil_le_floor_add_one (Metric.infDist x s)⁻¹
+          rw [← @Nat.cast_le ℝ, Nat.cast_add, Nat.cast_one] at hcf
+          exact (not_le_of_lt (hcf.trans_lt hx) (Nat.le_ceil _))
```
Comment (j-loreaux) [inline Mathlib/Topology/GDelta/MetrizableSpace.lean:83]: Some notes:

1. Again, no reason to inline the instance.
2. It's nice to use dedicated lemmas like `Set.eq_empty_or_nonempty` to do case splitting because then you don't have to use rewrites to put the negated case in the right form.
3. It's much easier to use an indexed union instead of a set union to show that this set `IsGδ`.
4. Try to avoid reproving the archimedean property from scratch and just use `exists_nat_one_div_lt`.

```suggestion
    let _ := pseudoMetrizableSpacePseudoMetric
    obtain rfl | he := s.eq_empty_or_nonempty
    · exact IsGδ.empty
    convert IsGδ.iInter_of_isOpen
      fun n : ℕ ↦ isOpen_Iio (a := (n + 1 : ℝ)⁻¹).preimage (continuous_infDist_pt s)
    apply subset_antisymm
    · refine subset_iInter fun n x hx ↦ ?_
      simp only [mem_preimage, infDist_zero_of_mem hx, mem_Iio, inv_pos]
      positivity
    · intro x hx
      rw [hs.mem_iff_infDist_zero he]
      refine le_antisymm (le_of_forall_pos_lt_add fun ε hε ↦ ?_) infDist_nonneg
      obtain ⟨n, hn⟩ := exists_nat_one_div_lt hε
      exact (mem_iInter.mp hx n).trans <| by simpa using hn
```

File: Mathlib/Topology/GDelta/MetrizableSpace.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+instance (priority := 500) [MetrizableSpace X] : T6Space X where
+
+end Metrizable
+
+section ContinuousAt
+variable {Y : Type*} [TopologicalSpace Y]
+
+theorem IsGδ.setOf_continuousAt [PseudoMetrizableSpace Y] (f : X → Y) :
+    IsGδ { x | ContinuousAt f x } := by
+  letI := pseudoMetrizableSpacePseudoMetric
```
Comment (j-loreaux) [inline Mathlib/Topology/GDelta/MetrizableSpace.lean:96]:
```suggestion
  let _ := pseudoMetrizableSpacePseudoMetric
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

File: Mathlib/Topology/GDelta/MetrizableSpace.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/Topology/GDelta/MetrizableSpace.lean:48]: I used `letI` because the docstring for `PseudoMetrizableSpace` says "To endow such a space with a compatible distance, use `letI : PseudoMetricSpace X := TopologicalSpace.pseudoMetrizableSpacePseudoMetric X`"

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 4]
```diff
@@ -65,6 +65,18 @@ theorem Ioc_disjoint_Ioi (h : b ≤ c) : Disjoint (Ioc a b) (Ioi c) :=
 theorem Ioc_disjoint_Ioi_same : Disjoint (Ioc a b) (Ioi b) :=
   Ioc_disjoint_Ioi le_rfl
 
+@[simp] theorem Ioi_disjoint_Iio (h : a ≤ b) : Disjoint (Ioi b) (Iio a) :=
+  disjoint_left.mpr fun _ hx hy ↦ not_lt_of_le h (hx.trans hy)
```
Comment (j-loreaux) [inline Mathlib/Order/Interval/Set/Disjoint.lean:69]: This shouldn't be marked `simp`, likewise for the other `a ≤ b` version below. (You could make a `DenselyOrdered` version that is an `iff` if you wanted.)

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 5]
```diff
@@ -65,6 +65,18 @@ theorem Ioc_disjoint_Ioi (h : b ≤ c) : Disjoint (Ioc a b) (Ioi c) :=
...
+
+theorem Ioi_disjoint_Iio_self : Disjoint (Ioi a) (Iio a) :=
```
Comment (j-loreaux) [inline Mathlib/Order/Interval/Set/Disjoint.lean:71]: This *should* be marked `@[simp]`, but also the name should be `same`, not `self`, to match the theorems above.

(likewise for the other `self` lemma below)

File: Mathlib/Topology/Metrizable/Uniformity.lean [hunk 6]
```diff
@@ -285,9 +285,19 @@ lemma TotallyBounded.isSeparable [UniformSpace X] [i : IsCountablyGenerated (
...
 instance (priority := 100) DiscreteTopology.metrizableSpace
-    {α} [TopologicalSpace α] [DiscreteTopology α] :
+    [TopologicalSpace α] [DiscreteTopology α] :
     MetrizableSpace α := by
   obtain rfl := DiscreteTopology.eq_bot (α := α)
   exact @UniformSpace.metrizableSpace α ⊥ (isCountablyGenerated_principal _) _
+
+instance (priority := 100) PseudoEMetricSpace.pseudoMetrizableSpace
+    [PseudoEMetricSpace α] : PseudoMetrizableSpace α :=
+  inferInstance
```
Comment (urkud) [inline Mathlib/Topology/Metrizable/Uniformity.lean:299]: Do these instances speed up or slow down the search?

File: Mathlib/Topology/GDelta/MetrizableSpace.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+    refine ⟨g ⁻¹' (Ioi 0), g ⁻¹' (Iio 0), isOpen_Ioi.preimage hg, isOpen_Iio.preimage hg,
+      fun x hx ↦ ?_, fun x hx ↦ ?_, Ioi_disjoint_Iio_same.preimage g⟩
+    · simp [g, infDist_zero_of_mem hx,
+        (ht.not_mem_iff_infDist_pos hte).mp (hst.not_mem_of_mem_left hx)]
+    · simp [g, infDist_zero_of_mem hx,
+        (hs.not_mem_iff_infDist_pos hse).mp (hst.not_mem_of_mem_right hx)]
+
+instance (priority := 500) [PseudoMetrizableSpace X] : PerfectlyNormalSpace X where
+  closed_gdelta s hs := by
+    let _ := pseudoMetrizableSpacePseudoMetric X
```
Comment (urkud) [inline Mathlib/Topology/GDelta/MetrizableSpace.lean:43]: I see that the new proof is longer than the old one. Why doesn't the old one work?

Comment (plp127) [reply Mathlib/Topology/GDelta/MetrizableSpace.lean:43]: The old proof does work! I'll substitute that in now.

File: Mathlib/Topology/GDelta/MetrizableSpace.lean [hunk 8]
```diff
@@ -0,0 +1,78 @@
...
+Gδ set.
+
+-/
+
+variable {X : Type*} [TopologicalSpace X]
+open TopologicalSpace Metric Set
+
+section Metrizable
+
+instance (priority := 100) [PseudoMetrizableSpace X] : NormalSpace X where
```
[the remark this answers is not in the document]
Comment (plp127) [reply Mathlib/Topology/GDelta/MetrizableSpace.lean:25]: `#find_home` gives this file (changing `PseudoMetrizableSpace` to `PseudoMetricSpace` doesn't help), so to move it up we need either a new proof, a dedicated file, or importing `MetricSpace/HausdorffDistance` earlier.

File: Mathlib/Topology/Metrizable/Uniformity.lean (hunk 6 above)
Comment (plp127) [reply Mathlib/Topology/Metrizable/Uniformity.lean:299]: I'll test it!

Comment (plp127) [reply Mathlib/Topology/Metrizable/Uniformity.lean:299]: How do I test this?

**Comment by grunweg** [comment]
Coming here for PR triage: is this waiting on something in particular?
@j-loreaux @urkud You both took a look already; would you like to comment?

**Review by j-loreaux — APPROVED** [review]
LGTM now, thanks!

bors merge
